US04780420
Progesterone receptor assay: A 2.5 kg female rabbit was injected intramuscularly for four successive days with 0.1 mg of estradiol cypionate in 0.1 ml of sesame oil. On the fifth day the uterus was excised, weighed and homogenized at 0° C. in 1.5 volumes of iced buffer containing: 1 mM dithiothreitol, 0.15 mM Na2EDTA, 30% glycerol, 20 mM sodium molybdate, 10 mM Tris/HCl, pH 7.4 (4° C.). Homogenization was accomplished with three 10 second bursts of Polytron homogenizer. The homogenate was centrifuged at 3,000×g for 10 min. and the resulting supernatant was centrifuged at 100,000×g for 1 hour. The final supertant (cytosol) was diluted with homogenization buffer to afford 20-40% binding of a trace of [3H]R5020 (90 Ci/mMol), 10,000 dpm, and 50 μl of the appropriate radioinert compound. Non-specific binding was evaluated in tubes containing 2 μM R5020. After incubating at 4° C. overnight, free and bound steroids were separated by the addition of 100 μl of a stirred suspension of charcoal (5 mg/ml) in 10 mM Tris-HCl, pH 7.4 (4° C.), 0.15 mM Na2EDTA. After mixing and standing on ice for 10 min., the tubes were centrifuged at 1500×g for 10 mins. and the "bound" radioactivity, in a 0.15 ml aliquot of the supernatant, was measured in a liquid scintillation counter. The effect of the competitors on the binding of [3H]R5020 is shown in FIG. 1.

reactant | Progesterone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C | C21H30O2
reactant | estradiol cypionate | 0.1 mg | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2OC(=O)CCC5CCCC5)O | C26H36O3
reactant | dithiothreitol | 1 mM | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | Na2EDTA | 0.15 mM | C(CN(CC(=O)O)CC(=O)[O-])N(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
reactant | Tris HCl | 10 mM | C(C(CO)(CO)N)O.Cl
catalyst | sodium molybdate | 20 mM | [O-][Mo](=O)(=O)[O-].[Na+].[Na+]
solvent | glycerol | OCC(O)CO | C3H8O3
product | [3H]R5020 | CCC(=O)[C@]1(CC[C@@H]2[C@@]1(CCC3=C4CCC(=O)C=C4CC[C@@H]23)C)C | C22H30O2
